US06498165B1
Step A: 2-[1-(3-Nitrophenyl)ethylamino]-4,6-dichloropyrimidine
The title compound was prepared from 1-(3-nitrophenyl)ethylamine and 2,4,6-trichloropyrimidine according to the procedure described in EXAMPLE 306, Step A.

reactant | 1-(3-nitrophenyl)ethylamine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)N | C8H10N2O2
reactant | 2,4,6-trichloropyrimidine | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
product | 2-[1-(3-Nitrophenyl)ethylamino]-4,6-dichloropyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C(C)NC1=NC(=CC(=N1)Cl)Cl | C12H10Cl2N4O2
